US07902379B2
A) 5-Chloro-3-hydroxy-3-(3-methoxy-pyridin-4-yl)-1,3-dihydro-indol-2-one
A 1.7 M solution of tert-butyllithium in pentane (57.8 mL) was added to THF (200 ml) at −78° C. 2-Bromomesitylene (3.6 mL) was added dropwise, keeping the temperature below −60° C., and the mixture stirred at −78° C. for 1 h. 3-Methoxypyridine (3.6 mL) was added dropwise at −78° C. and then the mixture was allowed to warm to −5° C. over 2 h. The reaction mixture was re-cooled to −78° C. and a slurry of 5-chloroisatin (3.26 g) in THF (100 mL) was added portionwise keeping the temperature below −60° C. The reaction mixture was stirred at −78° C. for 1 h. The cooling bath was removed and the reaction mixture was stirred for 30 min. The reaction mixture was quenched with 10% aqueous ammonium chloride solution and extracted several times with ethyl acetate. The combined organic layers were washed with water, dried over magnesium sulfate and evaporated to low volume. Upon standing, 0.73 g of a pale yellow solid separated which was filtered off, washed with ethyl acetate and dried in vacuo.

reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | 2-Bromomesitylene | 3.6 mL | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | 3-Methoxypyridine | 3.6 mL | COC=1C=NC=CC1 | C6H7NO
reactant | 5-chloroisatin | 3.26 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
solvent | pentane | 57.8 mL | CCCCC | C5H12
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 5-Chloro-3-hydroxy-3-(3-methoxy-pyridin-4-yl)-1,3-dihydro-indol-2-one | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=NC=C1)OC)O | C14H11ClN2O3
